US08455483B2
a) 2-(3-Bromobenzyloxy)ethanol
Sodium hydride (60% suspension in mineral oil, 1.23 g) was added portionwise to a solution of ethane-1,2-diol (4.7 mL) in THF (70 mL) and the mixture was stirred at RT for 30 min. 1-Bromo-3-(bromomethyl)benzene (7 g) was added, followed by tetrabutylammonium iodide (1.03 g) and the reaction mixture was heated at reflux for 90 min. The mixture was diluted with water and extracted into ethyl acetate (×2). The combined organics were dried over MgSO4, filtered and evaporated. The crude product was purified by silica chromatography using 30% ethyl acetate in isohexane as solvent to afford the subtitled compound as a colourless oil. Yield 4.90 g.

reactant | Sodium hydride | 1.23 g | [H-].[Na+]
reactant | ethane-1,2-diol | 4.7 mL | C(CO)O | C2H6O2
reactant | 1-Bromo-3-(bromomethyl)benzene | 7 g | BrC1=CC(=CC=C1)CBr | C7H6Br2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 1.03 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 2-(3-Bromobenzyloxy)ethanol | BrC=1C=C(COCCO)C=CC1 | C9H11BrO2
